US07105530B2
Preparation of N-(2-chloro-5-fluoro-4-pyrimidinyl)-N-(3-methyl-1H-indazol-6-yl)amine
To a stirred solution of 3-methyl-6-aminoindazole (2.71 g, 0.015 mol) and NaHCO3 (1.26 g, 0.045 mol) in THF (15 mL) and EtOH (60 mL) was added 5-fluoro-2,4-dichloropyrimidine (3.2 g, 0.019 mol) at room temperature. After the reaction was stirred overnight, the brown suspension was filtered and washed thoroughly with EtOH. The filtrate was concentrated under reduced pressure, and the resulting solid was washed with ether to remove excess pyrimidine to yield 3.7 g of the desired product (89%). HNMR: δ 12.57 (s, 1H), 10.01 (s, 1H), 8.28 (d, 1H), 7.93 (s, 1H), 7.60 (d, 1H), 7.27 (dd, 1H) 3.11 (s, 1H).

reactant | 3-methyl-6-aminoindazole | 0.015 mol, 2.71 g | CC1=NNC2=CC(=CC=C12)N | C8H9N3
reactant | NaHCO3 | 0.045 mol, 1.26 g | C(=O)(O)[O-].[Na+]
reactant | 5-fluoro-2,4-dichloropyrimidine | 0.019 mol, 3.2 g | FC=1C(=NC(=NC1)Cl)Cl | C4HCl2FN2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOH | 60 mL | CCO | C2H6O
product | N-(2-chloro-5-fluoro-4-pyrimidinyl)-N-(3-methyl-1H-indazol-6-yl)amine | 3.7 g, 89% | ClC1=NC=C(C(=N1)NC1=CC=C2C(=NNC2=C1)C)F | C12H9ClFN5
